US07160887B1
A mixture in tetrahydrofuran (50 ml) of ethyl 4-[4-(ethoxycarbonylmethyl)phenyl]aminobutanoate (2.4 g. 8.3 mmols) and sodium hydride (oily) (0.5 g, 12 mmols) was stirred, while heated under reflux, for 18 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with brine, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography to give a solid of ethyl[4-(2-oxopyrrolidin-1-yl)phenyl]acetate (1.2 g, 59%).

reactant | ethyl 4-[4-(ethoxycarbonylmethyl)phenyl]aminobutanoate | 8.3 mmols, 2.4 g | C(C)OC(=O)CC1=CC=C(C=C1)NCCCC(=O)OCC | C16H23NO4
reactant | sodium hydride | 12 mmols, 0.5 g | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl[4-(2-oxopyrrolidin-1-yl)phenyl]acetate | 1.2 g, 59% | C(C)OC(CC1=CC=C(C=C1)N1C(CCC1)=O)=O | C14H17NO3
